US04470976
4-Acetamidophenyl 4-O-(α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside
A 1.0 g portion of 4-aminophenyl 4-O-(α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside was dissolved in 5 ml of water and 0.340 ml of acetic anhydride was added with vigorous stirring. After stirring 10 minutes the reaction was concentrated, reconcentrated from toluene, dissolved in ethanol and precipitated with ether, giving 836 mg of the desired intermediate.

reactant | 4-aminophenyl 4-O-(α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | [C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@H](SC2=CC=C(C=C2)N)O[C@@H]1CO)O)O | C18H27NO10S
reactant | acetic anhydride | 0.340 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 5 ml | O | H2O
product | 4-Acetamidophenyl 4-O-(α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | 836 mg | [C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@H](SC2=CC=C(C=C2)NC(C)=O)O[C@@H]1CO)O)O | C20H29NO11S
